US04882432
N-[3-[4-(2-methoxyphenyl)-1-piperazinyl]propyl]-N'-tricyclo[3.3.1.1(3,7)]dec-1-ylurea
To a stirred suspension of 1-adamantanamine hydrochloride (1.25 gm, 0.0067 mol) and triethylamine (2.7 gm, 0.027 mol) in 25 ml of dry methylene chloride under a dry nitrogen atmosphere was added, dropwise, trichloromethyl chloroformate (1.33 gm, 0.0033 mol). The resulting suspension was refluxed for three hours, and then a solution of 3-[4-(2-methoxyphenyl)-1-piperazinyl]propylamine (1.64 gm, 0.0067 mol) in 15 ml of dry methylene chloride was added. The resulting mixture was allowed to stir at room temperature overnight. The reaction mixture was then diluted to 200 ml with methylene chloride, washed with 3% aqueous sodium bicarbonate solution, dried over anhydrous sodium sulfate, and concentrated on a rotary evaporator. The title compound (TLC on silica gel using a 20% methanol in ethyl acetate solvent system, RF=0.35) was isolated by gravity chromatography on silica gel and recrystallized from methylene chloride/hexane (1.65 gm, 53% of theory), mp.=181°-182° C.

reactant | 1-adamantanamine hydrochloride | 0.0067 mol, 1.25 gm | Cl.C12(CC3CC(CC(C1)C3)C2)N
reactant | triethylamine | 0.027 mol, 2.7 gm | C(C)N(CC)CC | C6H15N
reactant | trichloromethyl chloroformate | 0.0033 mol, 1.33 gm | ClC(=O)OC(Cl)(Cl)Cl | C2Cl4O2
reactant | 3-[4-(2-methoxyphenyl)-1-piperazinyl]propylamine | 0.0067 mol, 1.64 gm | COC1=C(C=CC=C1)N1CCN(CC1)CCCN | C14H23N3O
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
product | N-[3-[4-(2-methoxyphenyl)-1-piperazinyl]propyl]-N'-tricyclo[3.3.1.1(3,7)]dec-1-ylurea | COC1=C(C=CC=C1)N1CCN(CC1)CCCNC(=O)NC12CC3CC(CC(C1)C3)C2 | C25H38N4O2
